US08669271B2
4-[5-(4-Methanesulfinyl-2-methyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
A mixture of 4-[5-(2-methyl-4-methylsulfanyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester (20 mg), aqueous hydrogen peroxide solution (35%; 3.5 μL) and 1,1,1,3,3,3-hexafluoro-2-propanol (200 μL) is stirred at room temperature for 2 h. The reaction mixture is diluted with dichloromethane and extracted with sodium thiosulfate solution (10%; 2 mL). The organic phase is washed with brine, dried over MgSO4 and the solvent is evaporated. The residue is chromatographed on silica gel (dichloromethane/methanol 95:5) to give the title compound. Yield: 9 mg (43% of theory); LC (method 2): tR=1.45 min; Mass spectrum (ESI+): m/z=442 [M+H]+.

reactant | 4-[5-(2-methyl-4-methylsulfanyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | 20 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=C(C=C(C=C2)SC)C | C25H31NO3S
reactant | hydrogen peroxide | 3.5 μL | OO | H2O2
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 200 μL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[5-(4-Methanesulfinyl-2-methyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=C(C=C(C=C2)S(=O)C)C | C25H31NO4S
